US07312225B2
7b) Production of 4-(3-Nitro-phenoxy)-butylamine
A solution of 17.0 g (50 mmol) of 2-[4-(3-nitro-phenoxy)-butyl]-isoindole-1,3-dione in 1000 ml of ethanol is mixed with 25 ml of hydrazine and stirred for 2 hours at 70° C. After cooling, the precipitate that is formed is suctioned off, and the filtrate is spun in. The residue is taken up in dichloromethane. It is filtered again, and the filtrate is fully concentrated by evaporation. 5.8 g (28 mmol, corresponding to 56% of theory) of the product is obtained.

reactant | 2-[4-(3-nitro-phenoxy)-butyl]-isoindole-1,3-dione | 50 mmol, 17.0 g | [N+](=O)([O-])C=1C=C(OCCCCN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C18H16N2O5
reactant | hydrazine | 25 ml | NN | H4N2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-Nitro-phenoxy)-butylamine | [N+](=O)([O-])C=1C=C(OCCCCN)C=CC1 | C10H14N2O3
